US07943788B2
3-Bromo-1-(5-ethyl-2-thienylmethyl)-4-methoxybenzene
2-Ethylthiophene and 3-bromo-4-methoxybenzaldehyde were used and treated in a manner similar to Reference Example 7 to give the target compound.

reactant | 2-Ethylthiophene | C(C)C=1SC=CC1 | C6H8S
reactant | 3-bromo-4-methoxybenzaldehyde | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
product | 3-Bromo-1-(5-ethyl-2-thienylmethyl)-4-methoxybenzene | BrC=1C=C(C=CC1OC)CC=1SC(=CC1)CC | C14H15BrOS
